US04032652
o-Chloroaniline (2.55 g., 0.02 m.) is added to 4.24 g. (0.02 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 150 ml. of methanol and the mixture is refluxed overnight. The reaction mixture is concentrated, cooled and filtered to give 5-acetyl-3-[1-(o-chlorophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 143°-145° C.

reactant | o-Chloroaniline | 2.55 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-3-[1-(o-chlorophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=C(C=CC=C1)Cl)O | C15H12ClNO5
